US04156784
A mixture of 256 parts of heptadecyl alcohol, 60 parts of urea and 5 parts of a cation exchanger which is commercially available under the registered name Amberlite 200 and, having been treated in accordance with Example 1, contains nickel, is heated in a stirred vessel to 140°-145° C., whilst stirring. After filtering off the exchanger whilst the reaction solution is hot, 280 parts of heptadecyl carbamate are obtained. This corresponds to a yield of 94% of theory. The product has a melting point of 53°-54° C.

reactant | heptadecyl alcohol | C(CCCCCCCCCCCCCCCC)O | C17H36O
reactant | urea | NC(=O)N | CH4N2O
catalyst | nickel | [Ni] | Ni
product | heptadecyl carbamate | yield of 94% | C(N)(OCCCCCCCCCCCCCCCCC)=O | C18H37NO2
